US05705504
2-Methyl-2-phenylpropylsulfonyl chloride
In a flask under argon were placed magnesium turnings (0.8 g, 0.036 mol), dry THF (10 mL) and a iodine crystal. Then, 1-chloro-2-methyl-2-phenylpropane (5 mL, 0.031 mol) in THF (15 mL) was added slowly and the reaction mixture was refluxed for 30 min. It was then allowed to cool to room temperature and finally it was cooled to -70° C. and sulfuryl chloride (2.5 mL, 0.031 mol) in THF (10 mL) was added dropwise. The reaction was allowed to warm up to room temperature and was stirred at this temperature overnight. The resulting solution was poured into diluted phosphate buffer and extracted with EtOAc (3×). Evaporation of the solvent afforded the title compound (4.6 g, 65%).

reactant | magnesium | 0.036 mol, 0.8 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-chloro-2-methyl-2-phenylpropane | 0.031 mol, 5 mL | ClCC(C)(C1=CC=CC=C1)C | C10H13Cl
reactant | sulfuryl chloride | 0.031 mol, 2.5 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | phosphate | P(=O)([O-])([O-])[O-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Methyl-2-phenylpropylsulfonyl chloride | 4.6 g, 65% | CC(CS(=O)(=O)Cl)(C)C1=CC=CC=C1 | C10H13ClO2S
